US09145366B2
Preparation of 5-(3-chlorophenyl)-3-chloro-2-cyanopyridine (1):
To a 100 mL round bottom flask adapted for magnetic stirring and equipped with a nitrogen inlet was charged (3-chlorophenyl)boronic acid (5 g, 32 mmol), 3,5-dichloro-2-cyanopyridine (5.8 g, 34 mmol), K2CO3 (5.5 g, 40 mmol), [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) [PdCl2(dppf)] (0.1 g, 0.13 mmol), dimethylformamide (50 mL) and water (5 mL). The reaction solution was agitated and heated to 45° C. and held at that temperature for 18 hours after which the reaction was determined to be complete due to the disappearance of 3,5-dichloro-2-cyanopyridine as measured by TLC analysis using ethyl acetate/methanol (4:1) as the mobile phase and UV 435 nm to visualize the reaction components. The reaction solution was then cooled to room temperature and the contents partitioned between ethyl acetate (250 mL) and saturated aqueous NaCl (100 mL). The organic phase was isolated and washed a second time with saturated aqueous NaCl (100 mL). The organic phase was dried for 4 hours over MgSO4, the MgSO4 removed by filtration and the solvent removed under reduced pressure. The residue that remained was then slurried in methanol (50 mL) at room temperature for 20 hours. The resulting solid was collected by filtration and washed with cold methanol (50 mL) then hexanes (60 mL) and dried to afford 5.8 g (73% yield) of an admixture containing a 96:4 ratio of the desired regioisomer. 1H NMR (DMSO-d6) δ 9.12 (d, 1H), 8.70 (d, 1H), 8.03 (t, 1H) 7.88 (m, 1H), and 7.58 (m, 2H).

reactant | (3-chlorophenyl)boronic acid | 32 mmol, 5 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 3,5-dichloro-2-cyanopyridine | 34 mmol, 5.8 g | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) | 0.13 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | water | 5 mL | O | H2O
product | 5-(3-chlorophenyl)-3-chloro-2-cyanopyridine | 73% yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)Cl | C12H6Cl2N2
